US08865698B2
Step C: Preparation of (S)—N-(5-((R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxypyrrolidine-1-carboxamide:
To a DCM (5 mL) solution of (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (25 mg, 0.076 mmol) and DIEA (0.04 mL, 0.23 mmol) was added CDI (25 mg, 0.15 mmol) at ambient temperature in one portion. After stirring for one hour, (S)-pyrrolidin-3-ol (20 mg, 0.23 mmol) was added in one portion. The reaction was stirred overnight before it was concentrated and directly purified by reverse-phase column chromatography, eluting with 0 to 60% acetonitrile/water to yield the final product as a yellowish solid (28 mg, 83% yield). MS (apci) m/z=441.2 (M+H).

reactant | (R)-5-(2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.076 mmol, 25 mg | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N)OC | C17H18FN5O
reactant | DIEA | 0.23 mmol, 0.04 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 0.15 mmol, 25 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (S)-pyrrolidin-3-ol | 0.23 mmol, 20 mg | N1C[C@H](CC1)O | C4H9NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(5-((R)-2-(5-fluoro-2-methoxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxypyrrolidine-1-carboxamide | 28 mg, 83% yield | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2C[C@H](CC2)O)OC | C22H25FN6O3
